US06271261B1
b) Preparation of N-(2-Hydroxy-3-trifluoromethylphenyl)-N′-benzylurea
To a solution of benzylisocyanate (74.56 mg, 0.56 mmol) in DMF (1.0 ml), 2-hydroxy-3-trifluoromethylaniline (100 mg, 0.56 mmol) was added. The reaction mixture was stirred at 80° C. for 16 hours. Chromatography of the resulting liquid on silica gel gave desired product (140 mg, 80%). EI-MS m/z 311.1 (M+).

reactant | benzylisocyanate | 0.56 mmol, 74.56 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 2-hydroxy-3-trifluoromethylaniline | 0.56 mmol, 100 mg | OC1=C(N)C=CC=C1C(F)(F)F | C7H6F3NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | N-(2-Hydroxy-3-trifluoromethylphenyl)-N′-benzylurea | 140 mg, 80% | OC1=C(C=CC=C1C(F)(F)F)NC(=O)NCC1=CC=CC=C1 | C15H13F3N2O2
